US08664207B2
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-chloro-5-methyl-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one (5.6 mg, 0.013 mmol) is placed in a Biotage microwave tube, and then aniline (0.2 mL) is added. The mixture is heated at 150° C. for an hour. The mixture is purified by a semi-preparative HPLC to give product. MS (ESI) m/z 489.3 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-3-chloro-5-methyl-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | 0.013 mmol, 5.6 mg | ClC=1N(C=C2C1C(N(C=1N2[C@@H]2[C@H](N1)CCC2)C)=O)CC2=CC=C(C=C2)C2=NC=CC=C2 | C24H22ClN5O
reactant | aniline | 0.2 mL | NC1=CC=CC=C1 | C6H7N
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylamino)-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | CN1C=2N(C=3C(C1=O)=C(N(C3)CC3=CC=C(C=C3)C3=NC=CC=C3)NC3=CC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C30H28N6O
